US03947468
2,3-diphenylphenol is a typical example of a phenol which will form a dibenzopyran but cannot isomerize to the fluorenol because the meta position involved in the isomerization reaction is already substituted with a phenyl group. A solution of 1.0 g. of 2,3-diphenylphenol, 1.0 g. of acetone, 25 ml of trifluoroacetic acid and 1.5 ml of trifluoroacetic anhydride were heated at reflux in dry air for 3.25 hours by which time a sample which was worked up with hexane in water to remove the acidic materials was shown by vpc to be free of the starting phenol. Approximately 98 percent of the material was insoluble in Claisen's alkali and 2 percent of the material was soluble in Claisen's alkali. Apparently the latter was the trifluoroacetic of 2,3-diphenylphenol. Heating of the reaction mixture at reflux was continued for 18 hours, but caused no detectable change in the reaction mixture. Extraction with hexane and washing with water of the reaction mixture and evaporation of the solvent isolated 0.99 g. of 1-phenyl-6,6-dimethyl- 6H-dibenzo[b,d]pyran, corresponding to formula A where X is oxygen, R1 and R2 are each methyl, R3 is phenyl and R4, R5 and R6 are each hydrogen, as a viscous liquid which on standing in hexane for several days was isolated as a white crystalline compound. Its structure was confirmed by nmr spectroscopy. A sample of this material dissolved in anhydrous trifluoroacetic acid and refluxed for 23 hours did not produce any rearranged product. The phenyl substituent in the meta position of the initial phenyl had effectively prevented any rearrangement of the dibenzopyran to the fluorenol.

reactant | 2,3-diphenylphenol | C1(=CC=CC=C1)C1=C(C=CC=C1C1=CC=CC=C1)O | C18H14O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | dibenzopyran | C1=CC=CC2=C1C1=C(CO2)C=CC=C1 | C13H10O
